US06509366B2
Preparation of (2-Chloro-3,4-dimethoxyphenyl)-N-({1-[(2-[cyanomethoxyl]-phenyl)methyl]4,5-dimethylimidazol-2-yl}methyl)-N-(3-methylbutyl)carboxamide.
A mixture of 250 mg (0.50 mmol) of (2-chloro-3,4-dimethoxyphenyl)-N-(4,5-dimethylimidazol-2-yl)methyl-N-(3-methylbutyl)carboxamide, 52 μL of chloroacetonitrile (0.75 mmol), 276 mg (2.0 mmol) of K2CO3, and 3 mL of anhydrous DMF is stirred under nitrogen at 22° C. for 24 h and poured into 10% NaCl. The mixture is extracted with 20 mL of ethyl acetate. The extract is concentrated under reduced pressure, diluted with 20 mL of xylenes, and the volatiles are thoroughly evaporated. The crude product is purified by chromatography on 30 g of silica gel using chloroform—methanol—28% ammonium hydroxide (98:1.8:0.2, v/v/v) for elution to afford 113 mg (42% yield) of the title compound. Mass Spec m/z (M++1) 539.

reactant | (2-chloro-3,4-dimethoxyphenyl)-N-(4,5-dimethylimidazol-2-yl)methyl-N-(3-methylbutyl)carboxamide | 0.50 mmol, 250 mg | ClC1=C(C=CC(=C1OC)OC)C(=O)N(CCC(C)C)CC=1NC(=C(N1)C)C | C20H28ClN3O3
reactant | chloroacetonitrile | 0.75 mmol, 52 μL | ClCC#N | C2H2ClN
reactant | K2CO3 | 2.0 mmol, 276 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | NaCl | [Na+].[Cl-]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | (2-Chloro-3,4-dimethoxyphenyl)-N-({1-[(2-[cyanomethoxyl]-phenyl)methyl]4,5-dimethylimidazol-2-yl}methyl)-N-(3-methylbutyl)carboxamide | 113 mg, 42% yield | ClC1=C(C=CC(=C1OC)OC)C(=O)N(CCC(C)C)CC=1N(C(=C(N1)C)C)CC1=C(C=CC=C1)OCC#N | C29H35ClN4O4
